US06051712
A solution of 5.8 g (25.6 mmol) of a 4:1 mixture of tert-butyl (3RS,4RS)-4-cyano-3-hydroxy-piperidine-1-carboxylate and tert-butyl (3RS,4SR)-3-cyano-4-hydroxy-piperidine-1-carboxylate in 50 ml of N,N-dimethylformamide was stirred at room temperature under argon for 4 hours with 1.8 g (38.4 mmol) of sodium hydrogen sulphide monohydrate and 2.05 g (38.4 mmol) of ammonium chloride. For the working-up, the reaction mixture was evaporated under reduced pressure and the residue was taken up in 150 ml of methylene chloride. The solution obtained was washed twice with 10 ml of water each time and the organic phase was separated, dried over sodium sulphate and then evaporated under reduced pressure. For purification and separation of the isomer mixture, the residue was chromatographed on silica gel using a 95:5:0.1 mixture of methylene chloride, methanol and ammonia as the eluent. There were obtained 3.48 g (52% of theory) of tert-butyl (3RS,4SR)-3-hydroxy-4-thiocarbamoyl-piperidine-1-carboxylate, (Rf : 0.37, silica gel; methylene chloride:methanol:ammonia=90:10:0.1 v/v/v), MS: 260 (M)+, as well as 1.2 g of a mixture of tert-butyl (3RS,4SR)-3-hydroxy-4-thiocarbamoyl-piperidine-1-carboxylate and tert-butyl (3RS,4RS)-4-hydroxy-3-thiocarbamoyl-piperidine-1-carboxylate, each as a colourless oil.

reactant | tert-butyl (3RS,4RS)-4-cyano-3-hydroxy-piperidine-1-carboxylate | C(#N)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C11H18N2O3
reactant | tert-butyl (3RS,4SR)-3-cyano-4-hydroxy-piperidine-1-carboxylate | C(#N)C1CN(CCC1O)C(=O)OC(C)(C)C | C11H18N2O3
reactant | sodium hydrogen sulphide monohydrate | 38.4 mmol, 1.8 g | O.S.[Na]
reactant | ammonium chloride | 38.4 mmol, 2.05 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-butyl (3RS,4SR)-3-hydroxy-4-thiocarbamoyl-piperidine-1-carboxylate | 3.48 g, 52% | OC1CN(CCC1C(N)=S)C(=O)OC(C)(C)C | C11H20N2O3S
